* PEX produced on Mo 14. Sep 18:39:08 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from pulse_shaper_pex.ext - technology: ihp-sg13cmos5l

.subckt pulse_shaper_pex out1 nout1 VDD in VSS out2 nout2
X0 VDD nout2 out2 VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X1 low_th_inverter_0.vout high_th_inverter_0.vin VSS.t14 VSS.t13 sg13_hv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X2 VSS.t28 out1 nout1 VSS.t27 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X3 VDD out1 nout1 VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X4 nout2 low_th_inverter_0.vout VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X5 VSS.t21 high_th_inverter_0.vout out1 VSS.t22 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X6 nout2 low_th_inverter_0.vout VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X7 nout1 out1 VSS.t28 VSS.t29 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X8 out1 high_th_inverter_0.vout VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X9 high_th_inverter_0.vout high_th_inverter_0.vin VSS.t16 VSS.t17 sg13_hv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X10 VSS.t10 low_th_inverter_0.vout nout2 VSS.t12 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X11 VDD high_th_inverter_0.vout out1 VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X12 VSS.t25 high_th_inverter_0.vout out1 VSS.t24 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X13 nout1 out1 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X14 VDD low_th_inverter_0.vout nout2 VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X15 out2 nout2 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X16 nout1 out1 VSS.t25 VSS.t26 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X17 VSS.t3 nout2 out2 VSS.t2 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X18 out1 high_th_inverter_0.vout VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X19 VDD high_th_inverter_0.vin high_th_inverter_0.vout VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X20 low_th_inverter_0.vout high_th_inverter_0.vin VDD VDD sg13_hv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.4u
X21 VSS.t19 high_th_inverter_0.vin high_th_inverter_0.vout VSS.t18 sg13_hv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X22 out2 nout2 VSS.t3 VSS.t4 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X23 out1 high_th_inverter_0.vout VSS.t21 VSS.t23 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X24 VDD low_th_inverter_0.vout nout2 VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X25 out2 nout2 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X26 VSS.t28 out1 nout1 VSS.t30 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X27 nout1 out1 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X28 nout2 low_th_inverter_0.vout VSS.t8 VSS.t7 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X29 VSS.t10 low_th_inverter_0.vout nout2 VSS.t9 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X30 out2 nout2 VSS.t1 VSS.t0 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X31 high_th_inverter_0.vin in VDD VDD sg13_hv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.4u
X32 VDD high_th_inverter_0.vin low_th_inverter_0.vout VDD sg13_hv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.4u
X33 out1 high_th_inverter_0.vout VSS.t21 VSS.t20 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X34 VDD out1 nout1 VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X35 VDD nout2 out2 VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X36 high_th_inverter_0.vout high_th_inverter_0.vin VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X37 VSS.t16 high_th_inverter_0.vin low_th_inverter_0.vout VSS.t15 sg13_hv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X38 nout2 low_th_inverter_0.vout VSS.t10 VSS.t11 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X39 VDD high_th_inverter_0.vout out1 VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X40 VSS.t6 nout2 out2 VSS.t5 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X41 high_th_inverter_0.vin in VSS.t31 VSS.t31 sg13_hv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.45u
R0 VSS.n5 VSS.n13 300.298
R1 VSS.n5 VSS.t9 29.1282
R2 VSS.n5 VSS.t2 29.1272
R3 VSS.n5 VSS.t0 43.8369
R4 VSS.n5 VSS.t23 27.0606
R5 VSS.n5 VSS.t29 27.0604
R6 VSS.t4 VSS.n5 27.0604
R7 VSS.t5 VSS.n5 43.837
R8 VSS.n6 VSS.t13 43.8252
R9 VSS.n6 VSS.t15 43.8241
R10 VSS.t30 VSS.n5 43.8371
R11 VSS.t7 VSS.n5 43.8368
R12 VSS.n5 VSS.t12 43.8366
R13 VSS.t18 VSS.n15 64.8483
R14 VSS.n6 VSS.n14 511.865
R15 VSS.n14 VSS.t17 135.168
R16 VSS.n5 VSS.t24 43.8365
R17 VSS.n7 VSS.t25 0.287937
R18 VSS.n5 VSS.t22 29.1272
R19 VSS.n5 VSS.n17 0.653498
R20 VSS.n37 VSS.n6 17.0005
R21 VSS.n40 VSS.n6 17.0005
R22 VSS.n11 VSS.n6 8.49735
R23 VSS.n6 VSS.n10 8.49735
R24 VSS.n15 VSS.t17 64.8476
R25 VSS.n12 VSS.n16 3.40196
R26 VSS.n12 VSS.n36 17.0005
R27 VSS.n12 VSS.n35 17.0005
R28 VSS.n12 VSS.n34 17.0005
R29 VSS.n12 VSS.n21 17.0005
R30 VSS.n12 VSS.n22 17.0005
R31 VSS.t18 VSS.n13 135.168
R32 VSS.n5 VSS.n30 17.0005
R33 VSS.n5 VSS.n29 17.0005
R34 VSS.n5 VSS.n28 17.0005
R35 VSS.n5 VSS.n27 17.0005
R36 VSS.n5 VSS.n21 17.0005
R37 VSS.n5 VSS.n22 17.0005
R38 VSS.n33 VSS.t19 17.0005
R39 VSS.t19 VSS.n31 17.0005
R40 VSS.t19 VSS.n32 17.0005
R41 VSS.t14 VSS.t31 17.0005
R42 VSS.n5 VSS.t20 43.8368
R43 VSS.n13 VSS.n12 0.00115324
R44 VSS.n5 VSS.n18 0.778745
R45 VSS.t28 VSS.n19 0.289375
R46 VSS.n5 VSS.t27 29.1272
R47 VSS.n46 VSS.n12 5.66744
R48 VSS.n39 VSS.n12 8.49735
R49 VSS.n12 VSS.n20 8.49563
R50 VSS.n6 VSS.n9 1.6066
R51 VSS.n38 VSS.t14 8.49201
R52 VSS.n5 VSS.n7 0.653569
R53 VSS.t26 VSS.n5 43.837
R54 VSS.n42 VSS.n12 4.24826
R55 VSS.n24 VSS.n5 3.32785
R56 VSS.n7 VSS.n26 0.268195
R57 VSS.n44 VSS.n12 2.71442
R58 VSS.n12 VSS.n41 2.33168
R59 VSS.n12 VSS.n14 0.0011641
R60 VSS.n41 VSS.t16 1.28074
R61 VSS.n0 VSS.t3 0.130143
R62 VSS.n5 VSS.n3 0.955405
R63 VSS.n5 VSS.n23 0.890308
R64 VSS.n18 VSS.t10 0.321453
R65 VSS.n5 VSS.n19 0.778939
R66 VSS.n4 VSS.n26 0.889614
R67 VSS.n3 VSS.n1 0.8215
R68 VSS.n5 VSS.n4 0.798221
R69 VSS.n15 VSS.n12 0.206546
R70 VSS.n2 VSS.n1 1.06588
R71 VSS.n26 VSS.n3 0.710334
R72 VSS.n46 VSS.n4 0.660792
R73 VSS.n43 VSS.n8 0.375636
R74 VSS.n44 VSS.n43 0.423556
R75 VSS.n5 VSS.n0 0.458833
R76 VSS.n18 VSS.t8 0.291461
R77 VSS.t21 VSS.n23 0.33206
R78 VSS.t25 VSS.n19 0.323605
R79 VSS.n5 VSS.n2 0.234256
R80 VSS.t3 VSS.t1 0.301124
R81 VSS.t6 VSS.n0 0.134234
R82 VSS.t25 VSS.n23 0.290275
R83 VSS.n24 VSS.n25 0.280341
R84 VSS.n45 VSS.n44 0.272081
R85 VSS.n41 VSS.n25 0.153829
R86 VSS.t21 VSS.n24 0.136402
R87 VSS.n17 VSS.n1 0.268517
R88 VSS.n9 VSS.t16 1.34502
R89 VSS.n47 VSS.t28 0.0313989
R90 VSS.t8 VSS.n47 0.0313989
R91 VSS.t1 VSS.t10 0.0313989
R92 VSS.t31 VSS.n37 0.028257
R93 VSS.n38 VSS.n37 0.0271959
R94 VSS.t31 VSS.n8 0.328377
R95 VSS.n9 VSS.n38 0.216749
R96 VSS.n17 VSS.n47 0.287653
R97 VSS.t10 VSS.n2 0.659164
R98 VSS.n16 VSS.n6 3.40204
R99 VSS.n36 VSS.n30 0.0208704
R100 VSS VSS.t21 0.0190393
R101 VSS.n32 VSS.n21 0.0188333
R102 VSS.n31 VSS.n27 0.0181543
R103 VSS.n5 VSS.t11 27.0593
R104 VSS.n10 VSS.n39 0.0161031
R105 VSS.n35 VSS.n29 0.0127222
R106 VSS.n34 VSS.n28 0.0127222
R107 VSS.n42 VSS.n10 0.0197515
R108 VSS.n11 VSS.n20 0.019537
R109 VSS.n40 VSS.n20 0.0117354
R110 VSS.n36 VSS.n29 0.0113642
R111 VSS.n35 VSS.n28 0.0113642
R112 VSS.t16 VSS.n16 0.0257643
R113 VSS.n11 VSS.n39 0.0161031
R114 VSS.n33 VSS.n27 0.00661111
R115 VSS.n46 VSS.n45 0.00605046
R116 VSS.n31 VSS.n21 0.0059321
R117 VSS.n45 VSS.n22 0.0059321
R118 VSS.t16 VSS.n40 0.00587109
R119 VSS.n34 VSS.n33 0.00525309
R120 VSS.n32 VSS.n22 0.00525309
R121 VSS.n43 VSS.n42 0.00464999
R122 VSS.n30 VSS.n25 0.00321605
R123 VSS.t1 VSS.n5 8.50436
R124 VSS.n6 VSS.n8 1.25864
C0 nout2 low_th_inverter_0.vout 2.80824f
C1 high_th_inverter_0.vout out1 2.96727f
C2 low_th_inverter_0.vout nout1 0.17265f
C3 nout2 out1 0.03252f
C4 VDD out2 4.71681f
C5 high_th_inverter_0.vin high_th_inverter_0.vout 1.15942f
C6 nout1 out1 2.83244f
C7 high_th_inverter_0.vin in 0.52991f
C8 low_th_inverter_0.vout out1 0.29793f
C9 high_th_inverter_0.vin low_th_inverter_0.vout 0.77518f
C10 nout2 out2 2.83244f
C11 high_th_inverter_0.vout VDD 6.77345f
C12 in VDD 0.28754f
C13 nout2 VDD 8.44478f
C14 high_th_inverter_0.vin out1 0.02885f
C15 low_th_inverter_0.vout out2 0.03533f
C16 nout1 VDD 4.84988f
C17 low_th_inverter_0.vout VDD 3.8599f
C18 out1 VDD 8.5272f
C19 nout1 high_th_inverter_0.vout 0.03513f
C20 low_th_inverter_0.vout high_th_inverter_0.vout 0.2022f
C21 nout2 nout1 0.41847f
C22 high_th_inverter_0.vin VDD 3.23373f
C23 out2 VSS 5.41794f
C24 nout1 VSS 4.01314f
C25 VDD VSS 10.31205f
C26 VSS.t21 VSS 1.49306f
C27 VSS.t6 VSS 0.03389f
C28 VSS.t10 VSS 0.06779f
C29 VSS.t28 VSS 2.67222f
C30 VSS.t14 VSS 1.18701f
.ends

