* PEX produced on Mo 14. Sep 16:23:31 CEST 2026 using scripts/sak-pex.sh with m=1 and s=1
* NGSPICE file created from vco_pex.ext - technology: ihp-sg13cmos5l

.subckt vco_pex VDD out vctrl VSS nout vc
X0 a_10158_4610# a_10022_2540# VSS rsil l=10u w=0.5u
X1 a_7166_4610# a_7302_2540# VSS rsil l=10u w=0.5u
X2 VSS a_1458_982# comp_pmos_0.Ibias VSS sg13_hv_nmos ad=1.14p pd=6.38u as=2.04p ps=12.68u w=6u l=5u
X3 a_9070_4610# a_9206_2540# VSS rsil l=10u w=0.5u
X4 a_8798_4610# a_8934_2540# VSS rsil l=10u w=0.5u
X5 a_6986_5322# hv_inverter_6u5_1.out VSS VSS sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X6 a_4786_5322# hv_inverter_6u5_0.out out VSS sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X7 VDD out nout VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X8 VDD voltage_mirror_pmos_0.Ibias a_n1222_4722# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=2u
X9 VSS nout a_4786_5322# VSS sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X10 a_4128_2682# a_4128_2682# VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=2u
X11 nout out a_6986_5322# VSS sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X12 VDD voltage_mirror_pmos_0.Ibias voltage_mirror_pmos_0.Ibias VDD sg13_hv_pmos ad=3.23p pd=19.68u as=1.805p ps=9.88u w=9.5u l=2u
X13 a_888_8590# a_752_6244# VSS rhigh l=11.3u w=0.5u
X14 a_6622_4610# a_6758_2540# VSS rsil l=10u w=0.5u
X15 a_n5402_1018# a_n5402_1018# VDD VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X16 a_480_8590# a_344_6244# VSS rhigh l=11.3u w=0.5u
X17 out nout VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X18 hv_inverter_6u5_0.out comp_nmos_0.out VSS VSS sg13_hv_nmos ad=0.68p pd=4.68u as=0.68p ps=4.68u w=2u l=0.45u
X19 a_n2142_6108# vctrl VSS rhigh l=6.78u w=0.5u
X20 a_5550_4820# VSS VSS rppd l=10.95u w=2u
X21 a_1858_4722# a_1334_5674# VDD VDD sg13_hv_pmos ad=0.68p pd=4.68u as=0.38p ps=2.38u w=2u l=0.4u
X22 a_8254_4610# a_8118_2540# VSS rsil l=10u w=0.5u
X23 a_7982_4610# a_7846_2540# VSS rsil l=10u w=0.5u
X24 hv_inverter_6u5_1.in comp_pmos_0.Ibias VDD VDD sg13_hv_pmos ad=0.68p pd=4.68u as=0.38p ps=2.38u w=2u l=0.4u
X25 a_480_8590# voltage_mirror_pmos_0.out VSS rhigh l=11.3u w=0.5u
X26 hv_inverter_6u5_0.out comp_nmos_0.out VDD VDD sg13_hv_pmos ad=2.21p pd=13.68u as=2.21p ps=13.68u w=6.5u l=0.4u
X27 hv_inverter_6u5_1.out hv_inverter_6u5_1.in VSS VSS sg13_hv_nmos ad=0.68p pd=4.68u as=0.68p ps=4.68u w=2u l=0.45u
X28 VDD hv_inverter_6u5_0.out out VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X29 VSS a_n6746_982# a_n6746_982# VSS sg13_hv_nmos ad=2.04p pd=12.68u as=2.04p ps=12.68u w=6u l=5u
X30 VDD hv_inverter_6u5_1.out nout VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X31 VDD comp_pmos_0.Ibias a_1618_8074# VDD sg13_hv_pmos ad=0.38p pd=2.38u as=0.68p ps=4.68u w=2u l=0.4u
X32 a_6986_5322# hv_inverter_6u5_1.out VSS VSS sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X33 a_4786_5322# hv_inverter_6u5_0.out out VSS sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X34 a_9886_4610# a_9750_2540# VSS rsil l=10u w=0.5u
X35 VSS a_1774_8074# hv_inverter_6u5_1.in VSS sg13_hv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=1.5u
X36 voltage_mirror_pmos_0.Ibias a_n1734_4666# VSS rhigh l=6.78u w=0.5u
X37 a_n5402_1018# a_n5402_1018# VDD VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X38 a_10430_4610# a_10566_2540# VSS rsil l=10u w=0.5u
X39 voltage_mirror_pmos_0.out a_n1222_4722# VSS VSS sg13_hv_nmos ad=2.04p pd=12.68u as=1.14p ps=6.38u w=6u l=5u
X40 a_7710_4610# a_7574_2540# VSS rsil l=10u w=0.5u
X41 bias_current_generator_0.5uA+ a_n5402_1018# VDD VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X42 a_9614_4610# a_9478_2540# VSS rsil l=10u w=0.5u
X43 VSS nout a_4786_5322# VSS sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X44 out nout VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X45 nout out VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X46 a_7438_4610# a_7302_2540# VSS rsil l=10u w=0.5u
X47 VDD bias_current_generator_0.current_reference_40uA_0.iout comp_nmos_0.Ibias VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X48 a_1458_982# a_1458_982# VSS VSS sg13_hv_nmos ad=2.04p pd=12.68u as=1.14p ps=6.38u w=6u l=5u
X49 a_6894_4610# a_7030_2540# VSS rsil l=10u w=0.5u
X50 a_n5334_982# bias_current_generator_0.current_reference_40uA_0.iout VDD VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X51 VDD bias_current_generator_0.current_reference_40uA_0.iout bias_current_generator_0.current_reference_40uA_0.iout VDD sg13_hv_pmos ad=1.7p pd=10.68u as=0.95p ps=5.38u w=5u l=2u
X52 comp_nmos_0.out comp_nmos_0.Ibias VSS VSS sg13_hv_nmos ad=0.816p pd=5.48u as=0.456p ps=2.78u w=2.4u l=1.5u
X53 a_1774_8074# a_1364_7536# VSS VSS sg13_hv_nmos ad=0.408p pd=3.08u as=0.228p ps=1.58u w=1.2u l=1.5u
X54 VDD nout out VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X55 a_6986_5322# out nout VSS sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X56 VSS comp_nmos_0.Ibias a_1702_5674# VSS sg13_hv_nmos ad=0.456p pd=2.78u as=0.816p ps=5.48u w=2.4u l=1.5u
X57 a_8526_4610# a_8662_2540# VSS rsil l=10u w=0.5u
X58 a_888_8590# VSS VSS rhigh l=11.3u w=0.5u
X59 VDD comp_pmos_0.Ibias comp_pmos_0.Ibias VDD sg13_hv_pmos ad=0.68p pd=4.68u as=0.68p ps=4.68u w=2u l=0.4u
X60 a_n6746_982# a_n5402_1018# VDD VDD sg13_hv_pmos ad=0.95p pd=5.38u as=1.7p ps=10.68u w=5u l=2u
X61 a_6436_1018# a_4016_982# a_4128_2682# VSS sg13_hv_nmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=5u
X62 bias_current_generator_0.5uA- out vc VSS sg13_hv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.45u
X63 VDD a_1334_5674# a_1334_5674# VDD sg13_hv_pmos ad=0.38p pd=2.38u as=0.68p ps=4.68u w=2u l=0.4u
X64 out hv_inverter_6u5_0.out a_4786_5322# VSS sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X65 VSS a_n1222_4722# a_n1222_4722# VSS sg13_hv_nmos ad=1.14p pd=6.38u as=2.04p ps=12.68u w=6u l=5u
X66 a_4128_2682# a_4016_982# a_6436_1018# VSS sg13_hv_nmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=5u
X67 out hv_inverter_6u5_0.out VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X68 nout hv_inverter_6u5_1.out VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X69 VSS a_4016_982# bias_current_generator_0.current_reference_40uA_0.iout VSS sg13_hv_nmos ad=1.14p pd=6.38u as=2.04p ps=12.68u w=6u l=5u
X70 VDD bias_current_generator_0.current_reference_40uA_0.iout a_1458_982# VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X71 VSS a_n5334_982# a_n5334_982# VSS sg13_hv_nmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=5u
X72 a_n5334_982# a_n5334_982# VSS VSS sg13_hv_nmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=5u
X73 VDD out nout VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X74 VDD a_n5402_1018# bias_current_generator_0.5uA+ VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X75 VDD a_344_6244# VSS rhigh l=11.3u w=0.5u
X76 a_6986_5322# out nout VSS sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X77 a_1858_4722# vc a_1702_5674# VSS sg13_hv_nmos ad=0.408p pd=3.08u as=0.228p ps=1.58u w=1.2u l=1.5u
X78 a_n2142_6108# a_n2006_4666# VSS rhigh l=6.78u w=0.5u
X79 a_n1870_6108# a_n1734_4666# VSS rhigh l=6.78u w=0.5u
X80 a_10702_4610# a_10566_2540# VSS rsil l=10u w=0.5u
X81 a_7982_4610# a_8118_2540# VSS rsil l=10u w=0.5u
X82 a_7710_4610# a_7846_2540# VSS rsil l=10u w=0.5u
X83 a_10158_4610# a_10294_2540# VSS rsil l=10u w=0.5u
X84 hv_inverter_6u5_1.out hv_inverter_6u5_1.in VDD VDD sg13_hv_pmos ad=2.21p pd=13.68u as=2.21p ps=13.68u w=6.5u l=0.4u
X85 VSS hv_inverter_6u5_1.out a_6986_5322# VSS sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X86 VSS comp_nmos_0.Ibias comp_nmos_0.Ibias VSS sg13_hv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=1.5u
X87 VDD a_1858_4722# comp_nmos_0.out VDD sg13_hv_pmos ad=0.68p pd=4.68u as=0.68p ps=4.68u w=2u l=0.4u
X88 VDD a_n5402_1018# a_n5402_1018# VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X89 out hv_inverter_6u5_0.out a_4786_5322# VSS sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X90 a_9342_4610# a_9206_2540# VSS rsil l=10u w=0.5u
X91 out hv_inverter_6u5_0.out VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X92 VSS a_n5334_982# a_n5334_982# VSS sg13_hv_nmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=5u
X93 VDD a_n5402_1018# a_n6746_982# VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X94 a_9886_4610# a_10022_2540# VSS rsil l=10u w=0.5u
X95 a_7166_4610# a_7030_2540# VSS rsil l=10u w=0.5u
X96 a_6894_4610# a_6758_2540# VSS rsil l=10u w=0.5u
X97 VDD a_4128_2682# a_4016_982# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=2u
X98 VDD hv_inverter_6u5_0.out out VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X99 a_8798_4610# a_8662_2540# VSS rsil l=10u w=0.5u
X100 a_4786_5322# nout VSS VSS sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X101 VDD hv_inverter_6u5_1.out nout VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X102 a_6436_1018# a_4016_982# a_4128_2682# VSS sg13_hv_nmos ad=2.04p pd=12.68u as=1.14p ps=6.38u w=6u l=5u
X103 a_5550_4820# a_5986_2544# VSS rppd l=10.95u w=2u
X104 VSS a_1364_7536# a_1364_7536# VSS sg13_hv_nmos ad=0.228p pd=1.58u as=0.408p ps=3.08u w=1.2u l=1.5u
X105 a_8254_4610# a_8390_2540# VSS rsil l=10u w=0.5u
X106 VDD a_n5402_1018# a_n5402_1018# VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X107 VSS hv_inverter_6u5_1.out a_6986_5322# VSS sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X108 voltage_mirror_pmos_0.nout a_752_6244# VSS rhigh l=11.3u w=0.5u
X109 a_6622_4610# a_5986_2544# VSS rsil l=10u w=0.5u
X110 nout out VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X111 VSS a_n5334_982# a_n5402_1018# VSS sg13_hv_nmos ad=1.14p pd=6.38u as=2.04p ps=12.68u w=6u l=5u
X112 a_8526_4610# a_8390_2540# VSS rsil l=10u w=0.5u
X113 VDD bias_current_generator_0.current_reference_40uA_0.iout a_n5334_982# VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X114 voltage_mirror_pmos_0.Ibias voltage_mirror_pmos_0.Ibias VDD VDD sg13_hv_pmos ad=1.805p pd=9.88u as=3.23p ps=19.68u w=9.5u l=2u
X115 VDD nout out VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X116 a_4786_5322# nout VSS VSS sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X117 a_n1870_6108# a_n2006_4666# VSS rhigh l=6.78u w=0.5u
X118 a_4128_2682# a_4016_982# a_6436_1018# VSS sg13_hv_nmos ad=1.14p pd=6.38u as=2.04p ps=12.68u w=6u l=5u
X119 a_9614_4610# a_9750_2540# VSS rsil l=10u w=0.5u
X120 a_1702_5674# voltage_mirror_pmos_0.out a_1334_5674# VSS sg13_hv_nmos ad=0.228p pd=1.58u as=0.408p ps=3.08u w=1.2u l=1.5u
X121 bias_current_generator_0.current_reference_40uA_0.iout bias_current_generator_0.current_reference_40uA_0.iout VDD VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X122 a_10702_4610# a_6436_1018# VSS rsil l=10u w=0.5u
X123 a_10430_4610# a_10294_2540# VSS rsil l=10u w=0.5u
X124 a_7438_4610# a_7574_2540# VSS rsil l=10u w=0.5u
X125 voltage_mirror_pmos_0.nout voltage_mirror_pmos_0.Ibias VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=2u
X126 VSS a_n6746_982# bias_current_generator_0.5uA- VSS sg13_hv_nmos ad=2.04p pd=12.68u as=2.04p ps=12.68u w=6u l=5u
X127 a_n5334_982# a_n5334_982# VSS VSS sg13_hv_nmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=5u
X128 bias_current_generator_0.5uA+ out vc VDD sg13_hv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.4u
X129 comp_nmos_0.Ibias bias_current_generator_0.current_reference_40uA_0.iout VDD VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X130 nout out a_6986_5322# VSS sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X131 voltage_mirror_pmos_0.Ibias a_n5334_982# VSS VSS sg13_hv_nmos ad=2.04p pd=12.68u as=1.14p ps=6.38u w=6u l=5u
X132 a_9342_4610# a_9478_2540# VSS rsil l=10u w=0.5u
X133 a_1774_8074# voltage_mirror_pmos_0.nout a_1618_8074# VDD sg13_hv_pmos ad=0.68p pd=4.68u as=0.38p ps=2.38u w=2u l=0.4u
X134 a_9070_4610# a_8934_2540# VSS rsil l=10u w=0.5u
X135 a_1618_8074# vc a_1364_7536# VDD sg13_hv_pmos ad=0.38p pd=2.38u as=0.68p ps=4.68u w=2u l=0.4u
X136 a_1458_982# bias_current_generator_0.current_reference_40uA_0.iout VDD VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=2u
X137 nout hv_inverter_6u5_1.out VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X138 a_4016_982# a_4016_982# VSS VSS sg13_hv_nmos ad=2.04p pd=12.68u as=1.14p ps=6.38u w=6u l=5u
C0 vctrl VSS 1.15006f
C1 VDD VSS 0.22012p
C2 a_6436_1018# VSS 22.69157f
C3 a_10702_4610# VSS 1.58633f
C4 a_10566_2540# VSS 1.58633f
C5 a_10430_4610# VSS 1.58633f
C6 a_10294_2540# VSS 1.58633f
C7 a_10158_4610# VSS 1.58633f
C8 a_10022_2540# VSS 1.58633f
C9 a_9886_4610# VSS 1.58633f
C10 a_9750_2540# VSS 1.58633f
C11 a_9614_4610# VSS 1.58633f
C12 a_9478_2540# VSS 1.58633f
C13 a_9342_4610# VSS 1.58633f
C14 a_9206_2540# VSS 1.58633f
C15 a_9070_4610# VSS 1.58633f
C16 a_8934_2540# VSS 1.58633f
C17 a_8798_4610# VSS 1.58633f
C18 a_8662_2540# VSS 1.58633f
C19 a_8526_4610# VSS 1.58633f
C20 a_8390_2540# VSS 1.58633f
C21 a_8254_4610# VSS 1.58633f
C22 a_8118_2540# VSS 1.58633f
C23 a_7982_4610# VSS 1.58633f
C24 a_7846_2540# VSS 1.58633f
C25 a_7710_4610# VSS 1.58633f
C26 a_7574_2540# VSS 1.58633f
C27 a_7438_4610# VSS 1.58633f
C28 a_7302_2540# VSS 1.58633f
C29 a_7166_4610# VSS 1.58633f
C30 a_7030_2540# VSS 1.58633f
C31 a_6894_4610# VSS 1.58633f
C32 a_6758_2540# VSS 1.58633f
C33 a_6622_4610# VSS 1.58633f
C34 a_5986_2544# VSS 2.72973f
C35 a_5550_4820# VSS 3.68942f
C36 bias_current_generator_0.5uA- VSS 1.48947f
C37 bias_current_generator_0.5uA+ VSS 2.76812f
C38 a_4128_2682# VSS 3.43595f
C39 a_6986_5322# VSS 8.79999f
C40 a_4786_5322# VSS 22.05852f
C41 a_1334_5674# VSS 6.33571f
C42 a_n1734_4666# VSS 1.18f
C43 a_n1870_6108# VSS 1.18f
C44 a_n2006_4666# VSS 1.18f
C45 a_n2142_6108# VSS 1.18f
C46 comp_nmos_0.out VSS 88.96205f
C47 a_1702_5674# VSS 0.1709p
C48 a_1774_8074# VSS 3.0675f
C49 a_1618_8074# VSS 3.21329f
C50 a_888_8590# VSS 1.78021f
C51 a_752_6244# VSS 1.78021f
C52 a_480_8590# VSS 1.78021f
C53 a_344_6244# VSS 1.78021f
.ends

